Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Penicillins
 
Attending: ___.
 
Chief Complaint:
chest pain
 
Major Surgical or Invasive Procedure:
Cardiac catheterization ___
 
History of Present Illness:
___ y/o M hx HIV, HTN, HL, history of MI treated medically in 
past, presents with sudden onset chest pain and syncope. 

Patient reports he was at the bar ___ night). He had ~6 ___ 
lights. He went to the restroom and said that he could not 
urinate. Then he acutely developed diaphoresis with severe pain 
in the left side of his chest that radiated down to his abdomen. 
He felt very hot, nauseous, and passed out.  He states it felt 
like being stabbed. He did not remember if goes to back or arms. 
He thinks people witnessed event but unsure how long he lost 
consciousness. When he awoke, he had a contusion over his right 
clavicle and right forehead, consistent with traumatic injury 
during syncopal event. Reports confusion when he woke up, no 
incontinence of stool. He noticed his jeans were wet but unsure 
if he was incontinent. He reports history of MI, medically 
managed (prior in ___ ___ but no stents or CABG.

-In the ED initial vitals were: 97.7 68 109/66 24 100% RA 
-Labs/studies notable for: Na 132->139, K 3.0->4.9, bicarb 15, 
trop neg x2, lactate 5.2 that improved to 2.3, lipase 36, LFTs 
neg, 
-Utox was negative. Serum tox 108 but otherwise neg. 
-Patient was given: 40 meq KCl with 1L D5NS, efavirenz 600 mg, 
Truvada 1 tab, atorva 20 mg, atenolol 50 mg, 1L NS bolus
-CTA chest/abd/pelvis showed no acute aortic pathology and 
negative for dissection. No PE. Minimal edema. CXR showed low 
lung volumes 
-He underwent exercise stress, where he exercised for 9.5 
minutes ___ protocol (estimated peak MET 10.5). He had 
left-sided ___ chest discomfort at 3 minutes of recovery that 
resolved after 2 minutes. He was noted at that time to have 
0.5-1 mm horizontal/downsloping STD in V4-V6. Given these 
findings, cardiolgoy recommended admission to ___.
-Vitals on transfer:  98.5 64 126/61 15 98% RA 

On the floor the patient did not have any complaints of chest 
pressure or pain. 

REVIEW OF SYSTEMS:
Positive per HPI.

Cardiac review of systems is notable for absence of chest pain, 
dyspnea on exertion, paroxysmal nocturnal dyspnea, orthopnea, 
ankle edema, palpitations, syncope, or presyncope.

On further review of systems, denies fevers or chills. Denies 
any prior history of stroke, TIA, deep venous thrombosis, 
pulmonary embolism, bleeding at the time of surgery, myalgias, 
joint pains, cough, hemoptysis, black stools or red stools. 
Denies exertional buttock or calf pain. All of the other review 
of systems were negative.

 
Past Medical History:
1. CARDIAC RISK FACTORS
No Diabetes
+ Hypertension
+ Dyslipidemia
2. OTHER PAST MEDICAL HISTORY
- HIV
 
Social History:
___
Family History:
Father passed away at age ___ of a massive heart attack. 
 
Physical Exam:
ADMISSION EXAM
=================
VS: 98.2 104/46 72 16 99% RA
GENERAL: Well developed, well nourished female in NAD. Oriented 
x3. Mood, affect appropriate.
HEENT: Normocephalic atraumatic. Sclera anicteric. PERRL. EOMI. 
Conjunctiva were pink. No pallor or cyanosis of the oral mucosa. 

NECK: Supple. JVP not elevated.
CARDIAC: Regular rate and rhythm. Normal S1, S2. No murmurs, 
rubs, or gallops. No thrills or lifts.
LUNGS: No chest wall deformities or tenderness. Respiration is 
unlabored with no accessory muscle use. No crackles, wheezes or 
rhonchi.
ABDOMEN: Soft, non-tender, non-distended. No hepatomegaly. No 
splenomegaly.
EXTREMITIES: Warm, well perfused. No clubbing, cyanosis, or 
peripheral edema.
SKIN: No significant skin lesions or rashes.
PULSES: Distal pulses palpable and symmetric.
NEURO: CNII-XII intact, no deficits, moves all extremities well 

DISCHARGE EXAM
=============
Death exam performed:
Pupils 6mm, fixed, non-reactive
No carotid flow auscultated
No breath sounds auscultated
 
Pertinent Results:
ADMISSION LABS
================
___ 01:35AM BLOOD WBC-9.4# RBC-4.12* Hgb-12.7* Hct-37.2* 
MCV-90 MCH-30.8 MCHC-34.1 RDW-13.7 RDWSD-44.6 Plt ___
___ 01:35AM BLOOD Neuts-59.1 ___ Monos-9.1 Eos-1.3 
Baso-1.2* Im ___ AbsNeut-5.57 AbsLymp-2.71 AbsMono-0.86* 
AbsEos-0.12 AbsBaso-0.11*
___ 01:35AM BLOOD Glucose-169* UreaN-16 Creat-0.9 Na-132* 
K-3.0* Cl-98 HCO3-15* AnGap-22*
___ 01:35AM BLOOD cTropnT-<0.01
___ 06:30AM BLOOD cTropnT-<0.01
___ 01:35AM BLOOD Lipase-36
___ 01:35AM BLOOD Albumin-4.0 Calcium-8.4 Phos-2.4* Mg-2.1
___ 07:30AM BLOOD calTIBC-280 Ferritn-107 TRF-215
___ 01:35AM BLOOD ASA-NEG ___ Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG
___ 01:47AM BLOOD Lactate-5.2*

INTERIM LABS
=============
___ 05:36AM BLOOD Lactate-2.3*
___ 07:26AM BLOOD Lactate-1.4

DISCHARGE LABS
==============
___ 09:53PM BLOOD Glucose-146* UreaN-5* Creat-0.8 Na-147* 
K-3.7 Cl-123* HCO3-18* AnGap-10
___ 09:53PM BLOOD Calcium-7.1* Phos-3.0 Mg-1.9
___ 11:24AM BLOOD Osmolal-364*
___ 06:24AM BLOOD WBC-9.4 RBC-3.37* Hgb-10.2* Hct-31.1* 
MCV-92 MCH-30.3 MCHC-32.8 RDW-14.3 RDWSD-47.9* Plt Ct-24*

MICROBIOLOGY
==============
___ 3:00 pm IMMUNOLOGY      Source: Venipuncture. 

                            **FINAL REPORT ___

   HIV-1 Viral Load/Ultrasensitive (Final ___: 
      HIV-1 RNA is not detected. 
      Performed using the Cobas Ampliprep / Cobas Taqman HIV-1 
Test v2.0. 
      Detection Range: ___ copies/mL. 
      This test is approved for monitoring HIV-1 viral load in 
known
      HIV-positive patients. It is not approved for diagnosis of 
acute HIV
      infection. 
      In symptomatic acute HIV infection (acute retroviral 
syndrome), the
      viral load is usually very high (>>1000 copies/mL). If 
acute HIV
      infection is clinically suspected and there is a 
detectable but low
      viral load, please contact the laboratory for 
interpretation. 
      It is recommended that any NEW positive HIV-1 viral load 
result, in
      the absence of positive serology, be confirmed by 
submitting a new
      sample FOR HIV-1 PCR, in addition to serological testing. 

IMAGING/STUDIES
===============
CTA ___ chest/abd/pelvis
IMPRESSION: 
 
1. No acute aortic pathology. Specifically, there is no aortic 
aneurysm or dissection. 
2. No acute pulmonary embolus. 
3. Minimal pulmonary edema and atelectasis. 
4. Sigmoid diverticulosis. 

CXR ___. Low lung volumes and minimal bronchovascular crowding and 
edema. 
2. No focal pneumonia or pneumothorax. 

STRESS ___
INTERPRETATION: This ___ year old man with a history of NSTEMI 
___, 
HIV, HTN and HL was referred to the lab from the ER following 
negative serial cardiac markers for evaluation of chest 
discomfort and syncope. 
The patient exercised for 9.5 minutes of ___ protocol and 
stopped 
for fatigue. The estimated peak MET capacity was 10.5 which 
represents an average functional capacity for his age. No arm, 
neck, back or chest discomfort was reported by the patient 
during exercise. At 3 minutes of recovery, he noted a left sided 
___ chest discomfort that resolved with rest by 5 minutes of 
recovery. No ST segment changes were observed during exercise. 
At 3 minutes of recovery, there was 0.5-1 mm 
horizontal/downsloping STD in V4-6. This resolved by 7 minutes 
of recovery. The rhythm was sinus with 1 apb. Appropriate 
hemodynamic response to exercise and recovery on beta blocker 
therapy. 

CARDIAC CATH ___
Coronary Anatomy
Dominance: Left
* Left Main Coronary Artery
The LMCA is normal.
* Left Anterior Descending
The LAD is normal.
* Circumflex
The Circumflex is dominant.
The ___ Marginal has a 50% stenosis with a benign FFR of 0.91.
The left PDA has a 90% stenosis.
* Right Coronary Artery
The RCA is nondominant and normal.

Impressions:
Successful PCI of PDA branch of dominant Cx with 2.25 by 12 
Promus with good result.
Benign FFR of OM1.

Recommendations
ASA and plavix.
Aggrastat for 4 hrs.

TTE ___
The left atrium is normal in size. No atrial septal defect is 
seen by 2D or color Doppler. The estimated right atrial pressure 
is ___ mmHg. Normal left ventricular wall thickness, cavity 
size, and regional/global systolic function (biplane LVEF = 60 
%). The estimated cardiac index is normal (>=2.5L/min/m2). There 
is no ventricular septal defect. Right ventricular chamber size 
and free wall motion are normal. The aortic root is mildly 
dilated at the sinus level. The aortic valve leaflets (3) appear 
structurally normal with good leaflet excursion and no aortic 
stenosis or aortic regurgitation. The mitral valve appears 
structurally normal with trivial mitral regurgitation. There is 
no mitral valve prolapse. The estimated pulmonary artery 
systolic pressure is normal. There is no pericardial effusion. 

IMPRESSION: Normal biventricular cavity sizes with preserved 
regional and global biventricular systolic function. No 
pericardial effusion identified. Mildly dilated aortic sinus. 

CLINICAL IMPLICATIONS: 
Based on ___ AHA endocarditis prophylaxis recommendations, the 
echo findings indicate prophylaxis is NOT recommended. Clinical 
decisions regarding the need for prophylaxis should be based on 
clinical and echocardiographic data.

CTA HEAD/NECK ___. 3.6 x 4.8 cm mixed density left frontal intraparenchymal 
hemorrhage with substantial mass effect resulting in partial 
effacement of the left lateral ventricle and third ventricles 
and rightward 1 cm shift of normally midline structures.  There 
is effacement of the bilateral perimesencephalic cisterns, 
concern for herniation. 
2. The right ventricle demonstrates enlarged temporal horn, 
concerning for 
entrapment and developing hydrocephalus. 
3. There is extension of hemorrhage into the left lateral 
ventricle with 
hyperdense blood also seen within the fourth ventricle and the 
quadrigeminal plate cistern. 
4. A hyperdense subdural hematoma along the left lateral 
convexity measuring approximately 8 mm in maximum dimension from 
the inner table. 
5. Head CTA is notable for complete lack of visualization of the 
P3 branches of the left posterior cerebral artery and partial 
effacement of the A2 branch of the left anterior cerebral artery 
from extensive mass effect and midline shift. 
6. A 1-2 mm outpouching arising from the medial aspect of the 
left cavernous internal carotid artery may represent an 
infundibulum of a branch vessel however a tiny aneurysm cannot 
be excluded. 
7. Unremarkable neck CTA. 

 
Brief Hospital Course:
___ y/o M hx HIV, HTN, HL, NSTEMI ___ treated medically in past, 
who was admitted with sudden onset chest pain and syncope s/p 
positive stress test ___. Underwent cardiac catheterization 
on ___ with DES to PDA. Subsequently had a syncopal episode with 
nausea/diaphoresis on ___ with sinus pause (5 seconds, 11 
seconds) after returning from cardiac catheterization and was 
transferred to the CCU. Sinus pause thought to be related to AV 
nodal dysfunction ___ catheterization vs. vasovagal episode. EKG 
and R sided EKG were performed, which did not show any evidence 
of ischemia. Pt was started on metoprolol on ___ (6.25 q 6 
hours) and received one dose on the morning of the ___. Of note, 
post-cath labs revealed platelet count of 5. 

Shortly after arrival to CCU, patient was noted to have 
decreased alertness and difficulty following commands. He had 
received 100 mcg fentanyl during case and was originally thought 
his AMS may be due to an adverse effect of fentanyl, however 
concern for bleeding secondary to severe thrombocytopenia 
prompted further evaluation. A stroke code was called. Neurology 
evaluated the patient and agreed that a stat head noncontrast CT 
was necessary. CT scan revealed intraparenchymal hemorrhage of 
frontal lobe (left), blood into lateral and left fourth 
ventricle, subdural hemorrhage over entire left cerebral 
convexity and along the falx, and 1.5 cm of R ward shift and 
effacement of the basal cisterns.

Neurosurgery saw the patient immediately and determined that 
intervention would be futile. They recommended platelet 
transfusion and medications to control intracranial pressure 
until the family could be present at the bedside. Patient's 
family in ___ was notified of the situation and made travel 
arrangements. In the interim, patient developed central Diabetes 
Insipidus with hypernatremia, and further electrolyte 
abnormalities stemming from increased urine output. This was 
treated with ddAVP, insulin, and free water, along with 
electrolyte repletion. Electrolyte abnormalities were resolved 
by the time the family arrived. No definitive cause of the 
incident was determined. The family determined the patient would 
be made CMO. He was extubated and expired peacefully within 
minutes.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. ATRIPLA (efavirenz-emtricitabin-tenofov) ___ mg oral 
DAILY 
2. Atorvastatin 20 mg PO QPM 
3. Atenolol 50 mg PO DAILY 

 
Discharge Medications:
None
 
Discharge Disposition:
Expired
 
Discharge Diagnosis:
intracerebral hemorrhage
 
Discharge Condition:
Expired
 
Discharge Instructions:
None
 
Followup Instructions:
___